US08349865B2
Step 4: 1-Ethoxy-9-fluorobenzo[c]-2,6-naphthyridin-5(6H)-one
To a solution of 3-(2-amino-5-fluorophenyl)-2-ethoxy-N,N-diisopropylisonicotinamide (170 mg, 0.473 mmol) in THF (3153 μl), was added sodium hexamethyldisilazane (946 μl, 0.946 mmol, 1.0 M in THF). The reaction mixture was stirred at room temperature for 30 min. Methanol was added and the mixture was concentrated under reduced pressure. The residue was then triturated with diethyl ether (25 mL) and stirred for 1 h. The mixture was filtered through a frit, and the filter cake was collected and dried to afford the title compound as a beige solid.

reactant | 3-(2-amino-5-fluorophenyl)-2-ethoxy-N,N-diisopropylisonicotinamide | 0.473 mmol, 170 mg | NC1=C(C=C(C=C1)F)C1=C(C(=O)N(C(C)C)C(C)C)C=CN=C1OCC | C20H26FN3O2
reactant | sodium hexamethyldisilazane | 0.946 mmol, 1.0 M, 946 μl | C[Si](N[Si](C)(C)C)(C)C.[Na]
reactant | Methanol | CO | CH4O
solvent | THF | 3153 μl | C1CCOC1 | C4H8O
product | 1-Ethoxy-9-fluorobenzo[c]-2,6-naphthyridin-5(6H)-one | C(C)OC1=C2C3=C(NC(C2=CC=N1)=O)C=CC(=C3)F | C14H11FN2O2
